US09212182B2
A vial was charged with 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)quinolin-2(1H)-one (0.200 g, 0.425 mmol), (3-fluorophenyl)boronic acid (0.065 g, 0.468 mmol), potassium phosphate, dibasic (0.296 g, 1.701 mmol), and PdCl2(dppf) (0.031 g, 0.043 mmol)). The vial was flushed with Ar (g), then 1,4-dioxane (1.134 ml) and water (0.567 ml) were added. The vial was sealed and heated in a Biotage Initiator microwave reactor for 1 h at 90° C. LCMS showed clean desired product. The mixture was extracted with EtOAc (3×), then the combined organic extracts were concentrated. The residue was purified by chromatography on silica gel (12-g Redi-Sep Gold column, 0-50%, then 50-100% EtOAc/Heptane) to give 6-(benzylthio)-1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one (0.154 g, 0.317 mmol, 74.6% yield). m/z (ESI) 486.0 (M+H)+.

reactant | 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)quinolin-2(1H)-one | 0.425 mmol, 0.200 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)F)Br)OC)=O | C23H17BrFNO2S
reactant | (3-fluorophenyl)boronic acid | 0.468 mmol, 0.065 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | PdCl2(dppf) | 0.043 mmol, 0.031 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc Heptane | CCOC(=O)C.CCCCCCC
product | 6-(benzylthio)-1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one | 0.317 mmol, 0.154 g, 74.6% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1OC)C1=CC(=CC=C1)F)F)=O | C29H21F2NO2S
